US07101886B2
Starting from 2-[2-(4-1,2-benzisothiazol-3-yl-piperazin-1-yl)-ethyl]-4-fluoro-phenylamine (300 mg, 0.84 mmol) and 3,3 dimethyl acryloyl chloride (98 μL, 0.88 mmol) and following the procedure as outlined in Example 1, 287 mg of 3-methyl-but-2-enoic acid {2-[2-(4-1,2-benzisothiazol-3-yl-piperazin-1-yl)-ethyl]-4-fluoro-phenyl}-amide was isolated as a white powder in 100% purity @ 254 nm; LCMS (APCI): 439 [M+H]+; mp 175° C.

reactant | 2-[2-(4-1,2-benzisothiazol-3-yl-piperazin-1-yl)-ethyl]-4-fluoro-phenylamine | 0.84 mmol, 300 mg | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC2=C(C=CC(=C2)F)N | C19H21FN4S
reactant | 3,3 dimethyl acryloyl chloride | 0.88 mmol, 98 μL | CC(=CC(=O)Cl)C | C5H7ClO
product | 3-methyl-but-2-enoic acid {2-[2-(4-1,2-benzisothiazol-3-yl-piperazin-1-yl)-ethyl]-4-fluoro-phenyl}-amide | 287 mg | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC2=C(C=CC(=C2)F)NC(C=C(C)C)=O | C24H27FN4OS
